US09035059B2
2-[2-(4-tert-butylphenyl)-2-oxoethyl]-N-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide
Anisole (3 mL) was added to a solution of 2-[2-(4-tert-butylphenyl)-2-oxoethyl]-N-(2,4-dimethoxybenzyl)-N-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide obtained (258 mg) in chloroform (5 mL), and the mixture was cooled in ice. Trifluoroacetic acid (1 mL) was added thereto and the mixture was stirred at the same temperature for 2 hr. Saturated aqueous sodium hydrogen carbonate solution was added thereto and the mixture was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and then the desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=19:1→3:2) to afford the title compound as a pale yellow amorphous substance (153 mg).

reactant | Anisole | 3 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | 2-[2-(4-tert-butylphenyl)-2-oxoethyl]-N-(2,4-dimethoxybenzyl)-N-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | C(C)(C)(C)C1=CC=C(C=C1)C(CN1CC2=CC=C(C=C2CC1)S(=O)(=O)N(C1=CC=C(C=C1)F)CC1=C(C=C(C=C1)OC)OC)=O | C36H39FN2O5S
reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[2-(4-tert-butylphenyl)-2-oxoethyl]-N-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | C(C)(C)(C)C1=CC=C(C=C1)C(CN1CC2=CC=C(C=C2CC1)S(=O)(=O)NC1=CC=C(C=C1)F)=O | C27H29FN2O3S
